US05411980
Step B: 5-Cyclopropyl-2,4-dihydro-2-(2-nitrophenyl)-3H-1,2,4-triazol-3-one
By the procedure of Example 4, Step C, 2-nitrophenylhydrazine was reacted with ethyl N-(carbethoxy)cyclopropanecarboximidate. After work-up, the residue was purified by flash chromatography on silica gel (150 mL for 2.0 mmole, eluted with 1.5% MeOH/CH2Cl2) to give the desired material as a yellow foam in 69% yield, homogeneous by TLC in 5% MeOH/CH2Cl2, mass spectrum (FAB) m/e 247 (M+1)+.

reactant | 2-nitrophenylhydrazine | [N+](=O)([O-])C1=C(C=CC=C1)NN | C6H7N3O2
reactant | ethyl N-(carbethoxy)cyclopropanecarboximidate | C(=O)(OCC)N=C(OCC)C1CC1 | C9H15NO3
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 5-Cyclopropyl-2,4-dihydro-2-(2-nitrophenyl)-3H-1,2,4-triazol-3-one | 69% yield | C1(CC1)C=1NC(N(N1)C1=C(C=CC=C1)[N+](=O)[O-])=O | C11H10N4O3
